US08183275B2
A mixture of 3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propionamide (71.5 g, 202 mmol), ammonium acetate (770 g, 10 mol) and acetic acid (700 mL) was heated at 160° C. for 20 h. Upon cooling, the reaction mixture was poured onto ice (600 mL), and the pH was adjusted to ˜10 with concentrated ammonium hydroxide. The product was extracted with ethyl acetate, and the extracts were dried over sodium sulfate and concentrated to provide 2-[2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole, which was used without purification.

reactant | 3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propionamide | 202 mmol, 71.5 g | BrC1=CC=C(C=C1)CCC(=O)NCC(CC(CC)(C)C)=O | C17H24BrNO2
reactant | ammonium acetate | 10 mol, 770 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 700 mL | C(C)(=O)O | C2H4O2
product | 2-[2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole | BrC1=CC=C(C=C1)CCC=1NC=C(N1)CC(CC)(C)C | C17H23BrN2
